US06936609B2
4-Bromobenzenecarboximidamide hydrobromide
In an autoclave, 4-bromobenzonitrile (36.4 g, 200 mmol), ammonium bromide (39.2 g, 400 mmol) and ammonia gas (34.0 g, 2 mol) are heated to 140-150° C. under autogenous pressure for 9 h. The contents of the autoclave are concentrated and extracted by stirring with ethanol. The residue is filtered off and extracted again by stirring with ethanol. The extracts are combined and concentrated to about 100 ml. The precipitated solid is filtered off with suction, washed with ethanol and dried.

reactant | 4-bromobenzonitrile | 200 mmol, 36.4 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | ammonium bromide | 400 mmol, 39.2 g | [Br-].[NH4+]
reactant | ammonia | 2 mol, 34.0 g | N | H3N
product | 4-Bromobenzenecarboximidamide hydrobromide | Br.BrC1=CC=C(C=C1)C(N)=N | InChI=1S/C7H7BrN2.BrH/c8-6-3-1-5(2-4-6)7(9)10;/h1-4H,(H3,9,10);1H
